US06924374B2
1-(4-Chloro-3-nitro-phenyl)-4-propyl-piperazine
Beginning with 1-(4-Chloro-3-nitro-phenyl)-piperazine and 1-bromopropane, the title compound was recovered by the procedure described in Example 2. m.p. 249° C. (HCl); MS m/z (rel. intensity, 70 eV) 283 (M+, 27), 254 (87), 165 (bp), 153 (78), 56 (90).

reactant | 1-(4-Chloro-3-nitro-phenyl)-piperazine | ClC1=C(C=C(C=C1)N1CCNCC1)[N+](=O)[O-] | C10H12ClN3O2
reactant | 1-bromopropane | BrCCC | C3H7Br
product | 1-(4-Chloro-3-nitro-phenyl)-4-propyl-piperazine | ClC1=C(C=C(C=C1)N1CCN(CC1)CCC)[N+](=O)[O-] | C13H18ClN3O2
